US04933355
5-{1-Ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine acetic acid adduct
Following a procedure similar to that described in Example 1, the desired compound was prepared from 3 g of ethyl 2-(3-phenylureido)thiazol-4-ylglyoxylate, 1.25 g of rhodanine, 1 g of ammonium chloride 1 ml of 28% v/v aqueous ammonia and 10 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-(3-phenylureido)thiazol-4-ylglyoxylate | 3 g | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H13N3O4S
reactant | rhodanine | 1.25 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | ammonium chloride | 1 ml, 1 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-{1-Ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine acetic acid | C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)O)=O | C19H16N4O6S3
